US08975254B2
b) 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylic acid
Ethyl 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylate (590 mg, 1.951 mmol) was dissolved in THF/methanol mixture (9:1) and 1M lithium hydroxide (3.90 ml, 3.90 mmol) was added slowly. The reaction mixture was stirred at RT for 1 h, diluted with water and pH was adjusted to 1.5. The mixture was extracted three times with ethyl acetate. Ethyl acetate phases were combined and evaporated to yield the title compound (74.7%). 1H-NMR (400 MHz; DMSO): δ 1.68-1.81 (m, 2H), 2.06-2.15 (m, 2H), 2.85-2.96 (m, 5H), 2.99-3.10 (m, 1H), 3.51-3.59 (m, 2H), 8.67 (s, 1H), 13.02 (bs, 1H).

reactant | Ethyl 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylate | 1.951 mmol, 590 mg | CS(=O)(=O)N1CCC(CC1)C=1OC=C(N1)C(=O)OCC | C12H18N2O5S
reactant | lithium hydroxide | 3.90 mmol, 1M, 3.90 ml | [OH-].[Li+]
solvent | THF methanol | C1CCOC1.CO
solvent | water | O | H2O
product | 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylic acid | 74.7% | CS(=O)(=O)N1CCC(CC1)C=1OC=C(N1)C(=O)O | C10H14N2O5S
